US06515055B1
Synthesis of N′-(N-benzoylamidino)-benzoic Acid Hydrazide
A four neck flask (one liter) equipped with a thermometer and a stirrer was charged with 71.3 g (0.4 mole) of N′-amidinobenzoic acid hydrazide (CAS. 3679-92-3), 46.6 g (0.44 mole) of anhydrous sodium carbonate and 360 cc of dimethylformamide. Dropwise added thereto in about 2 hours was 59.0 g (0.42 mole) of benzoyl chloride under stirring while cooling so that the temperature was maintained at 20° C. or lower. After stirring at 20° C. (room temperature) for 12 hours, deposited crystals were filtered off, and the mother liquor was concentrated under reduced pressure. The resulting residue was dissolved in 100 cc of isopropyl alcohol, and the solution was slowly dropwise added to one liter of deionized water to deposit crystals. The resulting crystals were filtered off, sufficiently washed with deionized water and then dried under reduced pressure, whereby the intended compound (pale yellow crystals) was obtained.

reactant | N′-amidinobenzoic acid hydrazide | 0.4 mole, 71.3 g | C(N)(=N)NNC(C1=CC=CC=C1)=O | C8H10N4O
reactant | sodium carbonate | 0.44 mole, 46.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzoyl chloride | 0.42 mole, 59.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dimethylformamide | 360 cc | CN(C=O)C | C3H7NO
product | N′-(N-benzoylamidino)-benzoic Acid Hydrazide | C(C1=CC=CC=C1)(=O)NC(=N)NNC(C1=CC=CC=C1)=O | C15H14N4O2
